US05866596
2-hydroxy-1-[4-methylthiophenyl]ethanone
119 g of 2-bromo-1-[4-methylthiophenyl]ethanone (prepared according to J. Amer. Chem. Soc., 1952, p. 5475) are dissolved in a mixture of 200 ml of methanol and 300 ml of acetone. 53 g of potassium formate are added and the mixture is heated under reflux for 4 hours. The organic solvents are evaporated, the residual oil is taken up with ethyl acetate and washed with a saturated solution of sodium chloride. The ethyl acetate is evaporated and the residual oil crystallises in isopropyl ether.

reactant | 2-bromo-1-[4-methylthiophenyl]ethanone | 119 g | BrCC(=O)C1=CC=C(C=C1)SC | C9H9BrOS
reactant | potassium formate | 53 g | C(=O)[O-].[K+]
solvent | methanol | 200 ml | CO | CH4O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 2-hydroxy-1-[4-methylthiophenyl]ethanone | OCC(=O)C1=CC=C(C=C1)SC | C9H10O2S
